US04891375
EXAMPLE 24 4-(4-(2-(4-(Naphth-1-yl)piperazinyl)ethyl)phenyl)-1,2,3-thiadiazole 1,2,3-thiadiazole
To a 100 ml round-bottomed flask equipped with condenser and N2 inlet were added 0.64 g (2.83 mmol) (4-(4-(2-chloroethyl)phenyl)-1,2,3-thiadiazole, 0.60 g (2.83 mmol) N-(1-naphthyl)piperazine, 0.49 ml (2.83 mmol) diisopropylethylamine, 0.60 g (5.66 mmol) sodium carbonate, 2 mg sodium iodide, and 20 ml methylisobutylketone. The reaction was refluxed 4 days, cooled, and evaporated. The residue was taken up in ethyl acetate, washed with water and brine, dried over sodium sulfate, and evaporated. The residue was chromatographed on silica gel using methylene chloride/ethyl acetate as eluent and the product fractions dissolved in ethyl acetate and precipitated with ethyl acetate saturated with HCl. The precipitate was filtered and dried to give a solid, 0.62 g (50%), m.p. 286-289° C. NMR (DMSO-d6 and TFA): 3.6 (m, 2H), 3.9 (m, 2H), 4.4-4.7 (m, 8H), 7.5-8.2 (m, 11H), 9.42 (s, 1H).

reactant | 4-(4-(2-chloroethyl)phenyl)-1,2,3-thiadiazole | ClCCC1=CC=C(C=C1)C=1N=NSC1 | C10H9ClN2S
reactant | N-(1-naphthyl)piperazine | 2.83 mmol, 0.60 g | C1(=CC=CC2=CC=CC=C12)N1CCNCC1 | C14H16N2
reactant | diisopropylethylamine | 2.83 mmol, 0.49 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | sodium carbonate | 5.66 mmol, 0.60 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | sodium iodide | 2 mg | [I-].[Na+]
solvent | methylisobutylketone | 20 ml | CC(=O)CC(C)C | C6H12O
product | 4-(4-(2-(4-(Naphth-1-yl)piperazinyl)ethyl)phenyl)-1,2,3-thiadiazole 1,2,3-thiadiazole | S1N=NC=C1.C1(=CC=CC2=CC=CC=C12)N1CCN(CC1)CCC1=CC=C(C=C1)C=1N=NSC1 | InChI=1S/C24H24N4S.C2H2N2S/c1-2-6-22-20(4-1)5-3-7-24(22)28-16-14-27(15-17-28)13-12-19-8-10-21(11-9-19)23-18-29-26-25-23;1-2-5-4-3-1/h1-11,18H,12-17H2;1-2H
